US09422271B2
To the solution of ethyl 2-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-5-carboxylate (3.0 g, 8.5 mmol, 1 eq) in THF (300 ml) at −78° C., LiAlH4 (3.0 g) was added slowly. After stirring at RT for 1 h, Na2SO4.H2O was added and stirred at 23° C. for 0.5 h. The mixture was filtered and extracted with EtOAc (3×50 ml). The combined organic phases were washed (brine), dried (Na2SO4), filtered and concentrated to give a residue. The residue was purified by silica gel column chromatography (PE/EtOAc=1:1 as eluant) to give (2-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-5-yl)methanol (450 mg, 17.03%) as white solid. LC-MS (m/z)=311.15 [M+H]+

reactant | ethyl 2-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-5-carboxylate | 8.5 mmol, 3.0 g, 1 eq | BrC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)C(=O)OCC | C13H14BrN5O2
reactant | LiAlH4 | 3.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Na2SO4.H2O | [O-]S(=O)(=O)[O-].[Na+].[Na+].O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | (2-bromo-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidin-5-yl)methanol | 450 mg, 17.03% | BrC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)CO | C11H12BrN5O
